US06420359B1
e) 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
Solid NaH (60% oil dispersion, 3.46 g, 86.1 mmol) was added over 30 min to a solution of 8-bromo-2-chloro-5,11-dihydro-11-ethyl-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one (23.4 g, 66.3 mmol) in DMF (220 mL) at 50° C. The mixture was stirred at 50° C. for 1 h then was allow to cool to room temperature. The mixture was poured into water (1 L) and the resulting suspension was filtered. The solid was successively washed with water and hexane then dried under reduced pressure to give the title compound (23.0 g, 94% yield).

reactant | NaH | 86.1 mmol, 3.46 g | [H-].[Na+]
reactant | 8-bromo-2-chloro-5,11-dihydro-11-ethyl-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 66.3 mmol, 23.4 g | BrC1=CC2=C(N(C3=C(NC2=O)C=CC(=N3)Cl)CC)N=C1 | C13H10BrClN4O
reactant | water | 1 L | O | H2O
reactant | DMF | 220 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 23.0 g, 94% yield | BrC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)Cl)CC)N=C1 | C14H12BrClN4O
